US07385063B2
Preparation of N-benzyl-N′-{4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}urea
Into a 4 mL vial is added 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (75 mg, 0.289 mmol), anhydrous pyridine (1 mL) and benzyl isocyanate (0.036 mL, 0.289 mmol). The reaction mixture was stirred at r.t. for 2 days. To the reaction mixture is added H2O to precipitate the product. The solid is filtered and purified by preparative TLC (MeOH/CHCl3 10:90) to give a colorless solid (84.3 mg, 75%). m.p. 163-164° C. (dec). 1H NMR (DMSO & CHCl3) 4.23 (d, 2H), 6.05 (t, 1H), 7.05 (m, 1H), 7.08 (m, 4H), 7.25 (t, 3H), 7.42 (d, 2H), 8.02 (s, 1H); ESIMS: m/z 393 (M+H).

reactant | 2-(4-aminophenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.289 mmol, 75 mg | NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C9H7F6NO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | benzyl isocyanate | 0.289 mmol, 0.036 mL | C(C1=CC=CC=C1)N=C=O | C8H7NO
solvent | H2O | O | H2O
product | N-benzyl-N′-{4-[2,2,2-trifluoro-1-hydroxy-1-(trifluoromethyl)ethyl]phenyl}urea | 84.3 mg, 75% | C(C1=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C17H14F6N2O2
